US05135932
6-[2-[2-[3-(2-Chloro-5-methyl-phenoxy)-2-hydroxypropylamino]ethyl]benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone
Prepared analogously to Example 1 from 1-(2-chloro-5-methyl-phenoxy)-2,3-epoxypropane and 6-[2-(2-aminoethyl)benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone.

reactant | 1-(2-chloro-5-methyl-phenoxy)-2,3-epoxypropane | ClC1=C(OCC2CO2)C=C(C=C1)C | C10H11ClO2
reactant | 6-[2-(2-aminoethyl)benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone | NCCC=1NC2=C(N1)C=CC(=C2)C=2CCC(NN2)=O | C13H15N5O
product | 6-[2-[2-[3-(2-Chloro-5-methyl-phenoxy)-2-hydroxypropylamino]ethyl]benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone | ClC1=C(OCC(CNCCC=2NC3=C(N2)C=CC(=C3)C=3CCC(NN3)=O)O)C=C(C=C1)C | C23H26ClN5O3
